US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(3-chlorophenyl)imidazolidin-2-one
The compound was synthesized as trifluoroacetate salt starting from 5-aminobenzimidazole (0.293 g, 2.2 mmol), 3-chloro benzaldehyde (0.227 mL, 2 mmol), TMSCN (0.25 mL, 2 mmol), PdC (10%, 0.01 g), TEA (0.613 mL, 4.4 mmol), di-(imidazol-1-yl)methanone (0.389 g, 2.4 mmol) as described in method 2. The product was purified by means of preparative HPLC.

reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | 5-aminobenzimidazole | 2.2 mmol, 0.293 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | 3-chloro benzaldehyde | 2 mmol, 0.227 mL | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | TMSCN | 2 mmol, 0.25 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | di-(imidazol-1-yl)methanone | 2.4 mmol, 0.389 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(3-chlorophenyl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=CC(=CC=C2)Cl)=O | C16H13ClN4O
